2177-03-10 06:47:00 Physician Resident Progress Note
TITLE:
   24 hours:
   Pt admitted overnight s/p hematemesis. Received PRBcs in ED, had
   episode of flash pulmonary edema and was emergently intubated and
   transferred to ICU. Pt transfused 2 units overnight, 1 unit this AM for
   total of 4 units. Pt also received 2 units of FFP at OSH.
   Allergies: NKDA
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2177-3-10**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-10**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 67 (55 - 72) bpm
   BP: 133/45(74) {101/41(59) - 137/61(85)} mmHg
   RR: 14 (14 - 17) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
           Total In:
                                                                    441 mL
                                                                  1,149 mL
   PO:
           TF:
   IVF:
                                                                     66 mL
                                                                    654 mL
   Blood products:
                                                                    375 mL
                                                                    435 mL
   Total out:
                                                                  1,300 mL
                                                                    580 mL
   Urine:
                                                                  1,300 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.49/38/121/27/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: sedated, intubated
   Cards: harsh II/VI Systolic murmur w/ radiation to carotids:
   Resp: bilateral anterior ronchi
   Abd: soft
   Ext: WWP
   Neuro: responds to simple questions w/ head nods
   Labs / Radiology
   294 K/uL
   9.1 g/dL
   195 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   25 mg/dL
   100 mEq/L
   136 mEq/L
   26.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2177-3-9**]  07:52 PM
                             [**2177-3-9**]  09:59 PM
                             [**2177-3-10**]  12:01 AM
                             [**2177-3-10**]  12:11 AM
                             [**2177-3-10**]  04:06 AM
                             [**2177-3-10**]  04:20 AM
   WBC
   8.8
   10.7
   Hct
   24
   24.7
   26.3
   Plt
   295
   294
   Cr
   0.8
   0.6
   TropT
   1.03
   TCO2
   31
   28
   31
   30
   Glucose
   162
   195
   Other labs: PT / PTT / INR:27.5/42.6/2.7, CK / CKMB /
   Troponin-T:324/20/1.03, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85yF with hx of severe AS and recent pulmonary embolus on coumadin
   admitted with GI bleeding and respiratory distress.
   #) GI bleeding--likely precipitated from supratherapeutic INR and
   ascriptin use. Unclear whether bleeding is from upper GI or lower GI
   source. Hct 22.7 --> 26.3 with 2U. Not actively bleeding this AM, NGT
   lavage negative.
   - Access: 4 PIVs
   - Transfusing one more unit this AM for goal Hct >28.
   - Obtain post-transfusion Hct
   - Q4-6H  Hct until stable
   - INR 2.7: hold off on more FFP since patient is not actively bleeding
   now.
   - Continue on protonix drip per GI (18mg bolus and 8mg/hr infusion)
   - Plan for EGD this AM. Can consider outpatient colonoscopy depending
   on results of EGD.
   - If EGD negative and Pt continuing to bleed, consider tagged RBC scan.
   Will discuss possible scan with IR and notify surgery
   - Appreciate GI recs
   - If continues to bleed, will consider possibility of additional FFP
   and possible IVC filter
    - Monitor closely, if worsens would involve surgery / IR
   #) Respiratory distress--most likely due to flash pulmonary edema from
   AS in the setting of transfusion, IVF. Acute anemia may be
   contributing. Although no obvious changes to EKG, cannot exclude
   myocardial ischemia given this patient's risk factors for CAD and
   recent acute bleeding, as well as long-standing LBBB making EKG
   difficult to interpret for ischemia. Also can baseline respiratory
   distress from recent history of pulmonary embolus. Unlikely new PE
   given supratherapeutic INR.
   - Continue mechanical ventilation; Most recent EKG shows alkalemia 7.49
   pCO2 38; continue to adjust vent settings to optimize pH and pCO2.
   - Will plan to transition vent settings to pressure support, but will
   maintain on respirator for now
   - As blood pressure improves may need to control tachycardia with
   judicious use of Lopressor to optimize diastolic filling for
   improvement of cardiac output in the setting of severe aortic stenosis
   (hold for now given unstable blood volume)
   - Judicious use of lasix during transfusion for aortic stenosis; may
   need to focus on GIB now with plan to optimize pulmonary status as HD
   improves
   - [**Month (only) 51**] benefit from PA line to monitor LVEDV/preload and guide
   therapeutic decision-making for lasix dosing as HD improves
   - BPs fine; no need for CVL at this time.
   - f/u final CXR read--pulmonary edema vs. multifocal PNA.
   - Hold antibiotics for now given no e/o infection
   - F/u final read LENIs (prelim negative)
    - Arterial line for improved HD monitoring
   - Conside use of Vigileo for continuous assessment for fluid
   responsiveness
   #) Myocardial ischemia--troponin bumped from 0.11 --> 1.03, too high to
   be considered elevated from demand ischemia in the setting of GI bleed.
   Repeat EKG shows no changes from prior but difficult to interpret in
   setting of LBBB.
   - Receive high-dose lipitor 80mg today
   - Holding off on beta-blocker due to severe AS, heparin and ASA due to
   bleed
   - Continue cardiac enzymes to determine if levels decreasing/increasing
   - Will continue to monitor on telemetry
   - q8h EKG and cardiac enzymes
   - Possibly cardiology consult for possible cath pending resolution of
   GI bleeding.
   #) Severe AS--Last echo [**2177-2-25**] shows preserved EF 55-60% but patient
   is symptomatic and difficult to fluid resuscitate.  No reported valve
   area
 will obtain Echo report from OSH.
   - Judicious use of beta blockers to maintain adequate HR to ensure
   adequate diastolic filling time (preload dependence) if tachycardic
   - Judicious use of lasix during transfusion to prevent both flash
   pulmonary edema and decreased pre-load.
   - [**Month (only) 51**] benefit from PA catheter placement as above
   - Out-patient discussion of aortic valve replacement
   #) Pulmonary embolus--Currently therapeutically anticoagulated.  Per
   OSH records, small and sub-segmental.  Negative LENIs.
   - [**Hospital1 7**] INR
   - LENIs; f/u final read.
   #) Type II DM
 Unclear level of control.
   - Hold home glipizide
   - Insulin sliding scale with finger sticks qAC and HS
   #) Osteoarthritis--NSAIDs contraindicated for pain relief. Patient
   currently on Fentanyl / Midazolam gtt
   - Monitor for pain control, Fentanyl gtt
    - Hold outpatient po medications for now
    - Hold all NSAIDs
   #) Dilated intrahepatic biliary tree--noted on OSH CTA without
   work-up.  Per family, no complaint of abdominal pain prior to
   admission.
   - LFTs and alk phos
   - When stable, will consider RUQ ultrasound
   #) Hypercholesterolemia--80 atorvastatin for myocardial ischemia.
   # LUE pain: Etiology unclear.  [**Name2 (NI) 54**] family, this was the patient
   primary complaint today.  Prior OSH records with negative LUE u/s.
   Also with history of possible bursitis.  Given acute bleed and h/o CAD,
   obviously concerning for cardiac ischemia.
    - CE as above, ROMI
    - Control pain
    - Evaluate further as course progresses, when patient able to provide
   more details
    - Could consider x-ray of shoulder though no h/o trauma
   #) FEN:
   - Judicious fluid resuscitation given AS; A-line for improved HD
   monitoring
   - NPO for possible scope tomorrow
   - Replete lytes PRN
   #) Prophylaxis:
   - INR 2.7; holding heparin
   - Pneumoboots
   - Chlorhexadine glucontate / IV PPI gtt; daily wake-ups
   - HOB > 30 degrees
   #) Access
   -18X1 and 20 X3, PIVs
   - R arterial line
   - Needs CVL
   #) Communication: Patient and daughter (Family meeting held on arrival
   to ICU, HCP [**Name (NI) 11111**] [**Name (NI) 13842**] [**0-0-**], [**Telephone/Fax (1) 13843**] (cell)
   #) Code:  FULL CODE
   #) Disposition: ICU pending clinical improvement

2177-03-11 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24 hours events:
   - Transfused 2U FFP, during 2nd bad became febrile, bag stopped with
   concern for transfusion reaction
   - Fever started to come down but then went back up--101.5 throughout
   most of evening.
   - Got [** 573**] culture, urine culture; CXR w/o evidence of consolidation
   - Got lasix 10mg IV x3 --> put out 1.5L, roughly even for end of day.
   - Transfused another unit this AM for Hct 26.8
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2177-3-10**] 09:24 AM
   Furosemide (Lasix) - [**2177-3-11**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-11**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (100.9
   HR: 55 (51 - 81) bpm
   BP: 121/40(65) {108/37(61) - 157/62(92)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,248 mL
                                                                    457 mL
   PO:
             TF:
   IVF:
                                                                  1,964 mL
                                                                    457 mL
   [**Year (2 digits) **] products:
                                                                  1,224 mL
   Total out:
                                                                  2,947 mL
                                                                    650 mL
   Urine:
                                                                  2,947 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 318 (318 - 318) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   Compliance: 31.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/38/166/34/9
   Ve: 7.2 L/min
   PaO2 / FiO2: 415
   Physical Examination
   - Awake, responding to yes/no questions
   - Neck: JVP at 8-9cm
   - CV: harsh crescendo/decrescendo murmur heard diffusely through
   precordium
   - Lungs: CTAB anteriorly
   - Abd: s/nt/nd, + bs;
   - Ext: DP and radial pulses palpable
   Labs / Radiology
   245 K/uL
   8.9 g/dL
   66 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.0 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   26.8 %
   10.7 K/uL
        [image002.jpg]
   Hct: 22.7
 24.7, 26.7
 29.1 (after 4U)
 27.5
 27.2
 25.2
 26.8
   INR: 1.2
   Troponin: 0.11
 1.03
 1.27
 1.32
 1.5
   CKMB: 20
 10
   ALT 19, AST 44, LDH 290, CPK 191, Alk P 191, Tbili 1.0 (formerly Tbili
   1.9/0.9 direct/ 1.4 indirect)
   Lactate 0.8
                             [**2177-3-10**]  04:06 AM
                             [**2177-3-10**]  04:20 AM
                             [**2177-3-10**]  10:11 AM
                             [**2177-3-10**]  10:17 AM
                             [**2177-3-10**]  04:04 PM
                             [**2177-3-10**]  04:17 PM
                             [**2177-3-10**]  08:58 PM
                             [**2177-3-11**]  01:58 AM
                             [**2177-3-11**]  06:22 AM
                             [**2177-3-11**]  06:27 AM
   WBC
   10.7
   11.0
   10.7
   Hct
   26.3
   29.1
   27.5
   27.2
   25.4
   26.8
   Plt
   294
   270
   245
   Cr
   0.6
   0.8
   TropT
   1.03
   1.27
   1.32
   1.50
   TCO2
   30
   31
   31
   33
   Glucose
   195
   95
   66
   Other labs: PT / PTT / INR:14.1/32.8/1.2, CK / CKMB /
   Troponin-T:191/3/1.50, ALT / AST:19/44, Alk Phos / T Bili:76/1.0,
   Differential-Neuts:72.4 %, Lymph:20.3 %, Mono:6.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, LDH:290 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Micro:
   [**Year (4 digits) **] cultures and urine cultures
pending
   UA
negative except for [**Year (4 digits) 573**]
   Studies:
   ECHO Results
   - There is mild regional left ventricular systolic dysfunction with
   focal hypokinesis of the distal half of the septum and
   thinning/akinesis of the distal anterior wall and apex (clip [**Clip Number (Radiology) **]). The
   remaining segments contract normally (LVEF = 45%). c/w mid-LAD CAD.
   - There is severe aortic valve stenosis (valve area 0.8cm2). Trace
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. Mild to moderate ([**1-4**]+) mitral regurgitation is seen.
   - There is moderate pulmonary artery systolic hypertension. There is an
   anterior space which most likely represents a fat pad.
   Assessment and Plan
   85yF with hx of severe AS and recent pulmonary embolus on coumadin
   admitted with GI bleeding and respiratory distress.
   #) GI bleeding--likely precipitated from supratherapeutic INR and
   ascriptin use. Likely lower GI source given negative NGT lavage and
   BRBPR. Hct 22.7 --> 26.3 --> 29.2 --> 25.2 after 4U PRBs, which is
   concerning for ongoing bleeding although there is no clinical signs of
   this and patient's coagulopathy has corrected with FFP and vitamin K
   5mg IV x1.   Repeat Hct at 26, was given 1 more unit.
   - Continue to follow-up Hct; if continues to worsen will obtain nuclear
   red [**Month/Day (2) 573**] cell scan with possibility of angiography
   - Access: 4 [**Last Name (LF) 5258**], [**First Name3 (LF) **] require repeat transfusion today if Hct continues
   to drop
   - Continue to check Q4-6H  Hct until stable
   - on protonix drip per GI (18mg bolus and 8mg/hr infusion)
 will
   likely change to [**Hospital1 7**]
   - f/u GI recs on scope or possible virtual colonoscopy
   #) Respiratory distress and aortic stenosis--most likely due to flash
   pulmonary edema due to severe AS in the setting of transfusion, IVF.
   Euvolemic yesterday after 3U PRBCs and 1U FFP with 40mg IV of lasix
   - Pt. on CPAP/PS
 will continue to monitor and if persistent need for
   [**Last Name (LF) 573**], [**First Name3 (LF) **] keep her intubated
   - Judicious use of lasix during transfusion for aortic stenosis; may
   need to focus on GIB now with plan to optimize pulmonary status as she
   improves
   - CXRs QD for monitoring of volume status
   - Arterial line for improved HD monitoring
   - Out-patient discussion of aortic valve replacement.
   #) Myocardial ischemia--troponin bumped from 0.11 --> 1.03, most
   recently 1.50 too high to be considered elevated from demand ischemia
   in the setting of GI bleed. Repeat EKG shows no changes from prior but
   difficult to interpret in setting of LBBB. Echo shows septal WMAs,
   consistent with mid-LAD ischemia. This may be new, since on her
   previous echo from OSH there was no mention of regional WMAs.
   - On high dose simvastatin 80mg today
   - Holding off on beta-blocker due to severe AS, heparin and ASA due to
   bleed
   - Continue cardiac enzymes
   - Will continue to monitor on telemetry
   - q8h EKG and cardiac enzymes
   - Possibly cardiology consult for possible cath pending resolution of
   GI bleeding.
   - If hypertensive, could consider NTG drip if SBP>150
   #) Fever--currently afebrile. Increase in temperature may have been due
   to transfusion reaction or also infection. Must consider
   hospital-acquired infections given recent discharge. Patient also has
   small abscess at back of neck. UA unremarkable.
   - Continue to follow-up microbiology data ([**First Name3 (LF) 573**] and urine cultures
   from when febrile)
   - Obtain C. diff and stool cultures
   - Incision and drainage of abscess
   - Continue to monitor fever curve
   - Given abscess and continued fever, and most likely source gram
   positive organism, may consider empiric abx therapy with vancomycin
   although MRSA screen still pending.
   #) Pulmonary embolus--Currently therapeutically anticoagulated.  Per
   OSH records, small and sub-segmental.  Negative LENIs. INR 1.2.
   - F/u CTA records from OSH
   - Keep on pneumoboots for now
   - If shows any evidence of clot formation, will consider LENIs,
   possible IVC filter placement.
   #) Dilated intrahepatic biliary tree--noted on OSH CTA without
   work-up.  Per family, no complaint of abdominal pain prior to
   admission. LFTs mildly elevated (AST 44), LDH 290. Tbili high at 1.9/D
   0.5/In 1.4 (now normal at 1.0), alk phos normal. [**Month (only) 51**] be abberant in
   setting of some liver ischemia and possible [**Doctor Last Name 4871**], but unclear at
   present.
   - When stable, will consider RUQ ultrasound
   - Obtain hemolysis labs (haptoglobin) to evaluate for whether this
   patient may be hemolyzing around thickened, stenotic valve which may
   explain the high bilirubin and LDH.
   #) Type II DM
 Unclear level of control. Finger sticks yesterday 95,
   101, 84, most recently 66
   - Continue insulin sliding scale with finger sticks qAC and HS
   #) Osteoarthritis--NSAIDs contraindicated for pain relief. Patient
   currently on Fentanyl / Midazolam gtt
   - Monitor for pain control, Fentanyl gtt
    - Hold outpatient po medications for now
    - Hold all NSAIDs
   #) Hypercholesterolemia--80 atorvastatin for myocardial ischemia.
   #) LUE pain: Etiology unclear.  [**Name2 (NI) 54**] family, this was the patient
   primary complaint today.  Prior OSH records with negative LUE u/s.
   Also with history of possible bursitis.  Given acute bleed and h/o CAD,
   obviously concerning for ischemia.
    - CE as above, ROMI
    - Control pain
    - Evaluate further as course progresses, when patient able to provide
   more details
    - Could consider x-ray of shoulder though no h/o trauma
   #) FEN:
   - Judicious fluid resuscitation given AS; A-line for improved HD
   monitoring
   - Replete lytes PRN
   #) Prophylaxis:
   - INR 1.2, holding heparin
   - Pneumoboots
   - Chlorhexadine glucontate / IV PPI gtt; daily wake-ups
   - HOB > 30 degrees
   #) Access
   -18 and 20 [**Name2 (NI) 5258**] (4 total)
   - R arterial line
   #) Communication: Patient and daughter (Family meeting held on arrival
   to ICU, HCP [**Name (NI) 11111**] [**Name (NI) 13842**] [**0-0-**], [**Telephone/Fax (1) 13843**] (cell)
   #) Code:  FULL CODE
   #) Disposition: ICU pending clinical improvement

2177-03-12 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Got abdominal CT to evaluate pancreas and biliary tree; no pancreatic
   mass but choledochal cyst vs. ampullary stenosis
   - Abscess I&D and sent for culture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-3-12**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2177-3-11**] 06:08 PM
   Fentanyl - [**2177-3-11**] 06:08 PM
   Pantoprazole (Protonix) - [**2177-3-12**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-12**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.3
C (101
at 8pm
   Tcurrent: 37.8
C (100
   HR: 63 (53 - 76) bpm
   BP: 92/35(53) {92/29(51) - 160/55(90)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,477 mL
                                                                    358 mL
   PO:
             TF:
   IVF:
                                                                  1,102 mL
                                                                    358 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,595 mL
                                                                    575 mL
   Urine:
                                                                  2,595 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 318 (306 - 341) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.45/46/137/34/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   - Awake, responding to yes/no questions
   - Neck: JVP at 8-9cm
   - CV: harsh crescendo/decrescendo murmur heard diffusely through
   precordium
   - Lungs: CTAB anteriorly
   - Abd: s/nt/nd, + bs;
   - Ext: DP and radial pulses palpable
   Labs / Radiology
   272 K/uL
   10.5 g/dL
   83 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.6 mEq/L
   18 mg/dL
   99 mEq/L
   138 mEq/L
   31.6 %
   13.0 K/uL
        [image002.jpg] Ca 8.3 / Mg 2.9 / 2.0
   Troponin: 1.50
 1.12
 1.01
 1.11
 1.35
                             [**2177-3-10**]  08:58 PM
                             [**2177-3-11**]  01:58 AM
                             [**2177-3-11**]  06:22 AM
                             [**2177-3-11**]  06:27 AM
                             [**2177-3-11**]  10:00 AM
                             [**2177-3-11**]  11:58 AM
                             [**2177-3-11**]  01:19 PM
                             [**2177-3-11**]  06:00 PM
                             [**2177-3-11**]  07:04 PM
                             [**2177-3-12**]  02:53 AM
   WBC
   11.0
   10.7
   11.6
   13.0
   Hct
   27.2
   25.4
   26.8
   30.5
   29.6
   31.6
   Plt
   [**Telephone/Fax (3) 13890**]72
   Cr
   0.8
   0.8
   TropT
   1.50
   1.12
   1.01
   1.11
   1.35
   TCO2
   33
   33
   Glucose
   66
   83
   Other labs: PT / PTT / INR:14.1/32.8/1.2, CK / CKMB /
   Troponin-T:83/2/1.35, ALT / AST:18/30, Alk Phos / T Bili:83/0.9,
   Differential-Neuts:76.8 %, Lymph:16.0 %, Mono:4.9 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Micro:
   Gram stain of abscesss: 4+ GPCs in pairs and clusters, 1+ gram positive
   cocci, 2+ PMNs
   Studies:
   Abdominal CT (prelim): significant biliary ductal dilatation but no
   pancreatic mass; Ddx ampullary stenosis or choledochal cyst. Left
   adrenal thickening without nodule.
   Assessment and Plan
   85yF with hx of severe AS and recent pulmonary embolus on coumadin
   admitted with GI bleeding and respiratory distress.
   #) Myocardial ischemia--troponin peaked at 1.50 yesterday AM, then
   downtrended to 1.12, 1.01, then re-bumped to 1.11 and 1.35. Concerning
   for ongoing myocardial ischemia or repeat event. New regional WMAs
   noted on TTE.
   - Continue high dose simvastatin at 80mg
   - Continue to cycle cardiac enzymes q8h
   - Cardiology consult/path when more stable.
   - Will start ASA 81 mg today
   #) Respiratory distress--most likely due to flash pulmonary edema due
   to severe AS in the setting of transfusion, IVF. S/p transfusion of 5U
   pRBCs and 3+ U FFP.
   - On CPAP/PSV. Wean off ventilation for plan for extubation today
   pending assured cardiac status (troponins down-trending).
   - Check I/O in PM, give lasix gingerly if positive. Goal for I=O today.
   - F/u AM CXR
   - Arterial line for improved HD monitoring
   - Out-patient discussion of aortic valve replacement.
   #) GI bleeding--likely lower GI source precipitated from
   supratherapeutic INR and ascriptin use. Hct stable at 31.6 today and no
   signs of active bleeding, which is reassuring.
   - Change to [**Hospital1 7**] Hct
   - No need for further FFP (INR 2.1) s/p 3+ U FFP and 5mg vitamin K x1.
   - Protonix 40 [**Hospital1 7**]
   - Per GI, will scope from below when patient is stable and on floor.
   Follow up with their plans, as may change in setting of ACS.
   #) Fever-- Increase in temperature may have been due to transfusion
   reaction or also infection, given climbing WBC count. Must consider
   hospital-acquired infections given recent discharge. Patient also has
   small abscess at back of neck. UA unremarkable. S/p I & D of abscess
   - Covering with unasyn for now, will d/c today
   - Will obtain repeat cultures, sputum
   - Will then initiate Vanc/Cefepime for broad anti-biotic coverage given
   unclear fever source and multiple possible etiologies including HAP,
   abscess, intra-abdominal source
   - F/u abscess culture data
   - Continue to follow-up microbiology data (blood and urine cultures
   from when febrile)
   - Obtain C. diff and stool cultures
   #) Pulmonary embolus
Anticoagulation reversed in setting of critical GI
   bleed. INR 1.2. Reviewed OSH PE CTA with radiologist and study is
   limited owing to motion artifact so difficult to assess small and
   subsegmental vessels. Low suspicion for PE, but again, limited study.
   Rads also noted interstitial edema on PE CTA, which may have been
   underlying cause of patient
s chronic dyspnea when presented to OSH.
   - Keep on pneumoboots for now
   - If shows any evidence of clot formation, will consider IVC filter
   placement.
   - Will start heparin SC  today
   #) Dilated intrahepatic biliary tree--noted on OSH CTA without
   work-up.  Per family, no complaint of abdominal pain prior to
   admission. LFTs mildly elevated (AST 44), LDH 290. Tbili high at 1.9/D
   0.5/In 1.4 (now normal at 1.0), alk phos normal. Rads noted ductal
   dilatation was significant and suggested abdominal CT to evaluate
   pancreas; prelim read shows no pancreatic mass but possible choledochal
   cyst.
   - [**Month (only) 51**] require ERCP fur further evaluation while on floor.
   #) Type II DM
 Unclear level of control. Glucose low, not getting
   insulin.
   - Will hold insulin sliding scale with finger sticks qAC and HS, given
   that Pt not requiring insulin
   #) Osteoarthritis--NSAIDs contraindicated for pain relief. Patient
   currently on Fentanyl / Midazolam gtt
   - Monitor for pain control, Fentanyl gtt
    - Hold outpatient po medications for now
    - Hold all NSAIDs
   #) Hypercholesterolemia--80 atorvastatin for myocardial ischemia.
   # LUE pain: Etiology unclear.  [**Name2 (NI) 54**] family, this was the patient
   primary complaint today.  Prior OSH records with negative LUE u/s.
   Also with history of possible bursitis.  Given acute bleed and h/o CAD,
   obviously concerning for ischemia.
    - CE as above, ROMI
    - Control pain
    - Evaluate further as course progresses, when patient able to provide
   more details
    - Could consider x-ray of shoulder though no h/o trauma
   #) FEN:
   - Judicious fluid resuscitation given AS; A-line for improved HD
   monitoring
   - Replete lytes PRN
   #) Prophylaxis:
   - INR 1.2, holding heparin
   - Pneumoboots
   - Chlorhexadine glucontate / Protonix [**Hospital1 7**]
   - HOB > 30 degrees
   #) Access
   -18 and 20 PIVs
   - R arterial line
   #) Communication: Patient and daughter (Family meeting held on arrival
   to ICU, HCP [**Name (NI) 11111**] [**Name (NI) 13842**] [**0-0-**], [**Telephone/Fax (1) 13843**] (cell)
   #) Code:  FULL CODE
   #) Disposition: ICU pending clinical improvement

2177-03-14 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated in AM, required 30min of nitro for pressure regulation for
   half hour post extubation
   - Poor [** **] in PM (5-20cc's/hr). Advanced diet. Did not bolus because
   patient looked clinically well. PM creatinine stable at 0.9. [** **] picked
   up when patient started taking POs, then decreased again at 10-12 when
   patient stopped taking POs
   - 7PM - had a frankly bloody maroon-colored bowel movement. HR/BP
   stable. Hct 1t 4pm was 29.3. Ordered for stat Hct; plan to contact GI
   in AM
   - repacked abscess [**3-13**], looked improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-3-12**] 06:00 AM
   Cefipime - [**2177-3-13**] 08:00 AM
   Vancomycin - [**2177-3-13**] 10:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-13**] 11:00 PM
   Pantoprazole (Protonix) - [**2177-3-14**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-14**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 78 (55 - 84) bpm
   BP: 148/54(88) {91/29(48) - 153/55(90)} mmHg
   RR: 20 (9 - 25) insp/min
   SpO2: 99% on 2L.
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 83 kg
   Height: 65 Inch
             Total In:
                                                                  1,161 mL
                                                                    370 mL
   PO:
                                                                    540 mL
                                                                    360 mL
   TF:
                                                                    265 mL
   IVF:
                                                                    356 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    637 mL
                                                                    300 mL
   Urine:
                                                                    637 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    524 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 307 (307 - 347) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.39/58/107/29/8
   Ve: 6.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General: alert, awake, appropriate
   Neck: JVP 7cm
   CV: RRR, IV/VI crescendo-decrescendo murmur with radiation to carotids
   Lungs: crackles at bases b/l, otherwise clear
   Abdomen: soft, nontender, nondistended
   Ext: radial and DP pulses present in bilaterally
   Labs / Radiology
                                     pH
                                    7.39
                                    pCO2
                                     58
                                     pO2
                                     107
                                    HCO3
                                     36
                                   BaseXS
                                      8
   265 K/uL
   9.0 g/dL
   75 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   26 mg/dL
   102 mEq/L
   138 mEq/L
   27.9 %
   8.7 K/uL
        [image002.jpg]
   Hct: 29.3
 29.4
 27.9
   WBC 8.7
 10.1
                             [**2177-3-12**]  02:56 PM
                             [**2177-3-12**]  05:00 PM
                             [**2177-3-13**]  02:58 AM
                             [**2177-3-13**]  03:16 AM
                             [**2177-3-13**]  08:28 AM
                             [**2177-3-13**]  10:54 AM
                             [**2177-3-13**]  03:51 PM
                             [**2177-3-13**]  07:12 PM
                             [**2177-3-14**]  02:05 AM
                             [**2177-3-14**]  02:47 AM
   WBC
   10.9
   10.1
   8.7
   Hct
   29.4
   28.7
   29.3
   29.4
   27.9
   Plt
   265
   296
   265
   Cr
   0.9
   1.0
   0.9
   0.7
   TropT
   1.24
   1.03
   TCO2
   32
   34
   34
   36
   Glucose
   68
   57
   106
   110
   75
   Other labs: PT / PTT / INR:14.3/34.4/1.2, CK / CKMB /
   Troponin-T:40/2/1.03, ALT / AST:15/24, Alk Phos / T Bili:79/0.5,
   Differential-Neuts:76.8 %, Lymph:16.0 %, Mono:4.9 %, Eos:1.9 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:224 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Micro:
   C. Diff negative
   Sputum:
   GRAM STAIN (Final [**2177-3-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   Abscess: Pending
   Blood culture: Pending
   Assessment and Plan
   85yF with hx of severe AS and recent pulmonary embolus on coumadin
   admitted with GI bleeding and respiratory distress s/p extubation.
   #) GI bleeding--likely lower GI source precipitated from
   supratherapeutic INR and ascriptin use. Frankly bloody stool yesterday
   although hematocrit stable.
   - Contact GI this AM; even though they have signed off they may want to
   prep and scope given bloody bowel movements.
   - Continue to cycle Hct [**Hospital1 7**] unless ongoing signs of bleeding.
   - Will DC heparin and change ASA to 81mg daily
   - Continue protonix 40 QD
   - No need for further FFP (INR 1.2) s/p 3+ U FFP and 5mg vitamin K x1.
   #) Low [**Hospital1 **]
related to poor PO intake. Decided not to bolus given
   history of flash pulmonary edema in setting of fluid administration.
   Now that patient is advanced to full diet, will better be able to
   self-regular volume status. Low concern for hemodynamically significant
   GI bleeding given stable hematocrit, HR and BP.
   -          Continue to monitor [**Name (NI) **]
   -          Pt is thirsty this AM; encourage liberal PO intake.
   #) Respiratory distress--resolved, s/p extubation, no more signs of
   pulmonary edema, although some crackles at bases this am
   - Volume management: I/O check at noon and 6pm for goal even.
   - F/u AM CXR
   #) Fever-- Remained afebrile over 24 hours with down-trending WBC count
   most recently 8.7. Potential sources include VAP/HAP (new developing
   opacity on left hemithorax concerning for evolving infectious process)
   vs abscess (s/p I+D), or less likely, abdominal pathology, no central
   line. WBC count trending down, which is reassuring.
   - Continue vanc/cefepime for broad antibiotic coverage for VAP (LLL)
   for 8 day course; 15 day course if grows out pseudamonas.
   - Patient may need PICC, but will monitor and determine duration of abx
   pending cultures
   - Continued management of packing in abscess: I& D [**3-11**]. Re-packed [**3-13**].
   Needs re-packing [**3-15**] and every 2 days thereafter.
   - F/u micro data: blood cultures, abscess cultures, respiratory
   cultures
   #) Myocardial ischemia--troponin down-trending. Cards believes this to
   be consistent with demand ischemia in setting of GI bleed
   - Continue high dose simvastatin at 80mg
   - Change to ASA 81 mg based on bloody BM
   - Check BP today and consider low-dose beta-blocker (consider Lopressor
   6.25mg [**Hospital1 7**] if HR and BP tolerate)
   - Cardiology will talk to patient's out-patient cardiologist re:
   potential percutaneous AVR.
   #) Dilated intrahepatic biliary tree--noted on OSH CTA without
   work-up.  Per family, no complaint of abdominal pain prior to
   admission. LFTs mildly elevated (AST 44), LDH 290. Tbili high at 1.9/D
   0.5/In 1.4 (now normal at 1.0), alk phos normal. Rads noted ductal
   dilatation was significant and suggested abdominal CT to evaluate
   pancreas; prelim read shows no pancreatic mass but possible choledochal
   cyst.
   - No ERCP for now
   - Will sign-out possibiltiy of MRCP to floor team, if ERCP deemed too
   invasive for now.
   #) Abnormal Chest CT
initial concern for pulmonary embolus now felt
   unlikely, anticoagulation reversed in setting of critical GI bleed. INR
   1.2. Reviewed OSH PE CTA with radiologist and study is limited owing to
   motion artifact so difficult to assess small and subsegmental vessels.
   Low suspicion for PE, but again, limited study. Rads also noted
   interstitial edema on PE CTA, which may have been underlying cause of
   patient
s chronic dyspnea when presented to OSH.
   - Keep on pneumoboots
   #) Type II DM
 Unclear level of control. Glucose low, not getting
   insulin.
   - Sliding scale resumed now that patient is on full diet.
   #) Osteoarthritis--NSAIDs contraindicated for pain relief. Patient's
   LUE pain better yesterday.
   - Continue to monitor pain level
   - Give oxycodone for pain relief
   #) Hypercholesterolemia--80 atorvastatin for myocardial ischemia.
   #) FEN: full diabetic diet
   - Replete lytes PRN
   #) Constipation: Bowel movement yesterday
   - Colace d/c'ed
   #) Prophylaxis:
   - SCH heparin
   - Pneumoboots
   #) Access
   -18 and 20 PIVs
   - R arterial line; can d/c today
   #) Communication: Patient and daughter (Family meeting held on arrival
   to ICU, HCP [**Name (NI) 11111**] [**Name (NI) 13842**] [**0-0-**], [**Telephone/Fax (1) 13843**] (cell)
   #) Code:  FULL CODE
   #) Disposition: Call out today